US07273868B2
To a solution of 5-carboxy-2,4,6-trichloropyrimidine 10.0 g in dimethylformamide 45 ml is added a suspension of 3-chloro-4-methoxybenzylamine 4.82 g and triethylamine 6.98 ml in dimethylformamide 40 ml over a period of 20 minutes on ice bath, and the mixture is stirred for 1 hour. The reaction mixture is diluted with a 10% aqueous citric acid solution and extracted with ethyl acetate. The organic layer is washed, dried and concentrated in vacuo to give 4-(3-chloro-4-methoxybenzylamino)-5-carboxy-2,6-dichloropyrimidine as a pale brown solid, 17.59 g. mp 150-151° C.

reactant | 5-carboxy-2,4,6-trichloropyrimidine | 10.0 g | C(=O)(O)C=1C(=NC(=NC1Cl)Cl)Cl | C5HCl3N2O2
reactant | 3-chloro-4-methoxybenzylamine | 4.82 g | ClC=1C=C(CN)C=CC1OC | C8H10ClNO
reactant | triethylamine | 6.98 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 4-(3-chloro-4-methoxybenzylamino)-5-carboxy-2,6-dichloropyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)O)Cl)Cl)C=CC1OC | C13H10Cl3N3O3
